### PR TITLE
Heyting and Boolean algebras, lattices of subsets, set complements

### PR DESCRIPTION
**Pull request by langston-barrett**

### CODE REVIEW

File: UniMath/Algebra/Lattice/Complement.v [hunk 1]
```diff
@@ -0,0 +1,35 @@
...
+  Coercion complement_to_element : complement >-> pr1hSet.
+
+  Definition complement_top_axiom (x : X) (y : complement x) : x ⊕ y = ⊤ :=
+    dirprod_pr1 (pr2 y).
+
+  Definition complement_bottom_axiom (x : X) (y : complement x) : x ⊗ y = ⊥ :=
+    dirprod_pr2 (pr2 y).
+
+  (** This is _not_ a proposition: complements need not be unique. *)
+  Definition is_complemented : UU := ∏ x : X, complement x.
```
Comment (DanGrayson) [inline UniMath/Algebra/Lattice/Complement.v]: Since this is not a proposition, the name should probably not begin with "is_".

**Comment by siddharthist** [comment]
I've addressed @DanGrayson's comments and added another example: the boolean algebra structure on booleans.

File: UniMath/MoreFoundations/Subtypes.v [hunk 2]
```diff
@@ -176,3 +178,58 @@ Proof.
...
+  Definition subtype_complement : hsubtype X := fun x => hneg (S x).
+
+  (** Something can't be in a subset and its complement. *)
+  Lemma not_in_subtype_and_complement :
+    ∏ x, S x -> subtype_complement x -> empty.
+  Proof.
+    intros x in_S in_neg_S; exact (in_neg_S in_S).
+  Defined.
+
+  (** An intersection containing a set and its complement is empty. *)
```
Comment (DanGrayson) [inline UniMath/MoreFoundations/Subtypes.v]: You mean: An intersection of a family containing a subtype and its complement is empty.

File: UniMath/MoreFoundations/Subtypes.v [hunk 3]
```diff
@@ -176,3 +178,58 @@ Proof.
...
+      pose (in_neg_S' := (eqtohomot (pr2 has_neg_S)) x).
+
+      apply (not_in_subtype_and_complement x).
+      + abstract (induction in_S'; assumption).
+      + abstract (induction in_neg_S'; assumption).
+
+    - intros empt; induction empt.
+  Qed.
+
+  (** A union containing a set and its complement is the whole set (assuming LEM). *)
```
Comment (DanGrayson) [inline UniMath/MoreFoundations/Subtypes.v]: You mean: A union of a family containing a subtype and its complement is the whole set (assuming LEM).

File: UniMath/MoreFoundations/Subtypes.v [hunk 4]
```diff
@@ -176,3 +178,58 @@ Proof.
...
   - induction e. exact Tz.
 Defined.
+
+Section Complement.
+
+  Context {X : UU} (S : hsubtype X).
+
+  Definition subtype_complement : hsubtype X := fun x => hneg (S x).
+
+  (** Something can't be in a subset and its complement. *)
```
Comment (DanGrayson) [inline UniMath/MoreFoundations/Subtypes.v]: You mean : Something can't be in a subtype and its complement.

File: UniMath/MoreFoundations/Subtypes.v [hunk 5]
```diff
@@ -8,6 +8,8 @@ Local Open Scope subtype.
 
 Local Open Scope logic.
 
+Definition emptysubtype (X : UU) : hsubtype X := λ x, hfalse.
+
 (** The powerset, or set of all subsets, of a set. *)
```
Comment (DanGrayson) [inline UniMath/MoreFoundations/Subtypes.v]: You mean: The set of all subtypes of a type.

File: UniMath/MoreFoundations/Subtypes.v [hunk 6]
```diff
@@ -176,3 +178,58 @@ Proof.
...
+
+Section Complement.
+
+  Context {X : UU} (S : hsubtype X).
+
+  Definition subtype_complement : hsubtype X := fun x => hneg (S x).
+
+  (** Something can't be in a subset and its complement. *)
+  Lemma not_in_subtype_and_complement :
+    ∏ x, S x -> subtype_complement x -> empty.
```
Comment (DanGrayson) [inline UniMath/MoreFoundations/Subtypes.v]: This would be a lot clearer if phrased as
```
S x -> subtype_complement S x -> empty
```
so the reader is reminded that it's S we are taking the complement of.

**Comment by siddharthist** [comment]
@DanGrayson Thanks for the rephrasing tips! For specific suggestions, it's nice to use the Github "Suggested changes" feature, as described [on this page](https://help.github.com/en/articles/commenting-on-a-pull-request#adding-line-comments-to-a-pull-request) in the bullet:
> Optionally, to suggest a specific change to the line, click_, then edit the text within the suggestion block. 

Then the author can apply the changes right in the browser.

**Comment by peterlefanulumsdaine** [comment]
I think this is now ready to merge; in particular, I’ve addressed all the comments from @DanGrayson ’s reviews.

There are some loose ends it’d be nice to tie up (in particular, proving some of the results that are stated but `Abort`-ed, like the Heyting structure of a Boolean lattice), but after starting to work on these, it’s become clear to me they’ll need a substantial amount of further work — so I think it makes more sense to merge this now, and leave further latticework to a future PR.

**Review by DanGrayson — APPROVED** [review]
